US07812028B2
b) N-((1R,2R)-2-Hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31b to c, using 5-bromo-6-(2-methoxy-ethoxy)-nicotinic acid, 4-trifluoromethylphenyl-boronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (ISP): 439.0 (M+H+).

reactant | 5-bromo-6-(2-methoxy-ethoxy)-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)OCCOC | C9H10BrNO4
reactant | 4-trifluoromethylphenyl-boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | N-((1R,2R)-2-Hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide | O[C@H]1[C@@H](CCCC1)NC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)OCCOC)=O | C22H25F3N2O4
